US07547699B2
Step 2: (4R,9aR)-7-Bromo-6-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 22.78 g (4R,9aR)-6-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 200 ml tetrahydrofuran was added at 0° C. 8.78 g (0.049 mol) N-bromosuccinimide and the mixture was stirred at 0° C. for 30 minutes. The reaction mixture was diluted with 500 ml ethyl acetate and extracted sequentially with a 10% aqueous solution of sodium thiosulfate, a 10% aqueous solution of citric acid, water and brine dried over sodium sulfate, evaporated under aspirator vacuum and dried to constant weight under high vacuum to yield 26.5 g of the title compound as colorless oil. (MS: 541 (M+H+)).

reactant | (4R,9aR)-6-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 22.78 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)C(O[SiH](C)C)C(C(C)C)(C)C | C25H43N3O3Si
reactant | N-bromosuccinimide | 0.049 mol, 8.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | (4R,9aR)-7-Bromo-6-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 26.5 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C(O[SiH](C)C)C(C(C)C)(C)C)Br | C25H42BrN3O3Si
